US09085583B2
To a stirred solution of ethyl 2,6-dimethyl-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridine-3-carboxylate (1.5 g, 6.4 mmol) in N,N-dimethylformamide (50 mL) was added (1-bromoethyl)-benzene (1.5 g, 7.9 mmol) and cesium carbonate (3.14 g, 9.6 mmol). The resultant solution was stirred at 80° C. for 12 hours. Once starting material was consumed, the reaction mixture was quenched with water (50 mL), and extracted with ethyl acetate (100 mL×3). The combined organic layers were washed with brine (100 mL*2), dried over anhydrous sodium sulfate, filtered and concentrated to give a residue. The residue was purified by column chromatography (silica gel, petroleum ether/ethyl acetate=5:1) to give ethyl 2,6-dimethyl-7-oxo-1-(1-phenylethyl)-6,7-dihydro-1H-pyrrolo[2,3-c]pyridine-3-carboxylate (1.5 g, 69%) as a yellow solid. LRMS (M+H+) m/z: calcd 338.16. found 338.

reactant | ethyl 2,6-dimethyl-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridine-3-carboxylate | 6.4 mmol, 1.5 g | CC1=C(C2=C(C(N(C=C2)C)=O)N1)C(=O)OCC | C12H14N2O3
reactant | (1-bromoethyl)-benzene | 7.9 mmol, 1.5 g | BrC(C)C1=CC=CC=C1 | C8H9Br
reactant | cesium carbonate | 9.6 mmol, 3.14 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | ethyl 2,6-dimethyl-7-oxo-1-(1-phenylethyl)-6,7-dihydro-1H-pyrrolo[2,3-c]pyridine-3-carboxylate | 1.5 g, 69% | CC1=C(C2=C(C(N(C=C2)C)=O)N1C(C)C1=CC=CC=C1)C(=O)OCC | C20H22N2O3
